2127-05-10 08:55:00 Physician Attending Progress Note
Chief Complaint: post-op hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   63 yo F w/ invasive bladder ca, s/p BCG/TURBT,  1 day post -op from
   radical cystectomy with ileal loop conduit and ant exeneration c/b
   post-op hypotension and hyperbarbic resp failure
   24 Hour Events:
 ARTERIAL LINE - START [**2127-5-9**] 11:00 PM
 NON-INVASIVE VENTILATION - START [**2127-5-10**] 12:57 AM
   Weaned off pressors in  pacu
   IVF X 1 L NS
   resp acidosis + nongap met acidosis (vol resus) --> NPPV (Bipap) with
   improvement
   History obtained from [**Hospital 85**] Medical records, ho
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2127-5-9**] 11:56 PM
   Cefazolin - [**2127-5-10**] 02:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-5-10**] 08:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36
C (96.8
   HR: 90 (90 - 97) bpm
   BP: 92/60(73) {81/49(61) - 138/68(93)} mmHg
   RR: 15 (14 - 19) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    175 mL
                                                                  1,888 mL
   PO:
             TF:
   IVF:
                                                                    175 mL
                                                                  1,888 mL
   Blood products:
   Total out:
                                                                    209 mL
                                                                    990 mL
   Urine:
                                                                    184 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
                                                                     25 mL
                                                                     70 mL
   Balance:
                                                                    -34 mL
                                                                    898 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 1,087 (70 - 1,087) mL
   PS : 15 cmH2O
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 0 cmH2O
   SpO2: 94%
   ABG: 7.44/34/109/19/0
   Ve: 13.5 L/min
   PaO2 / FiO2: 218
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse:present), (Left radial
   pulse:present), (Right DP pulse:present), (Left DP pulse: Npresentd)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, + BS hypo+ Tender: no r, multiple ostomy sites
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli,
   Labs / Radiology
   10.1 g/dL
   228 K/uL
   180 mg/dL
   0.6 mg/dL
   19 mEq/L
   4.3 mEq/L
   12 mg/dL
   109 mEq/L
   139 mEq/L
   28.6 %
   19.4 K/uL
        [image002.jpg]
                             [**2127-5-9**]  11:28 PM
                             [**2127-5-10**]  12:05 AM
                             [**2127-5-10**]  02:05 AM
                             [**2127-5-10**]  03:49 AM
                             [**2127-5-10**]  04:14 AM
   WBC
   19.3
   19.4
   Hct
   31.1
   39
   28.6
   Plt
   200
   228
   Cr
   0.6
   0.6
   TropT
   <0.01
   <0.01
   TCO2
   23
   25
   24
   Glucose
   166
   180
   Other labs: PT / PTT / INR:12.9/31.6/1.1, CK / CKMB /
   Troponin-T:1073/9/<0.01, Differential-Neuts:91.4 %, Band:0.0 %,
   Lymph:4.4 %, Mono:4.0 %, Eos:0.2 %, Lactic Acid:3.4 mmol/L, Ca++:8.2
   mg/dL, Mg++:2.5 mg/dL, PO4:3.4 mg/dL
   Imaging: cxr--small volumes, rotated, atelectasis
   ECG: flattened tw lat
   Assessment and Plan
   63 yo F w/ invasive bladder ca, s/p BCG/TURBT 1 day post op from
   radical cystectomy with ileal loop conduit and ant exeneration c/b
   post-op hypotension and hyperbarbic resp failure
   # hypotension
likely under-resusc
   Responded to IVF
off pressors, making good u/o
   trend lactates, colloid, IVF with NS/LR
   f/u cx
s given inf risk
   # leukocytosis
likely post-op stress
   f/u cx, continue prophy antibx coverage per urology w/ cefaz/flagyl X
   24 hrs
   # anemia
blood loss in or + dilutional from fluid resus
   transfuse prbcs
   # hypercarbia resp failure/atelectasis
improved with bipap, somnolent
   this am but easily arousable and appropriate, recheck abg on NC, may
   require intermittent bipap pending CO2, IC
   # NG acidosis
likely from aggressive NS though possibly related to
   ileal divertion
   Trend, LR/NS
   # post-op
f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 458**] recs, monitor u/o, flagyl/cef X 24 hrs, IC
   # elevated cpk
likely related to surgery, no trop or mb elevation,
   follow, good u/o
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2127-5-9**] 11:00 PM
   18 Gauge - [**2127-5-9**] 11:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2127-05-11 08:16:00 Physician Resident Progress Note
Chief Complaint: hypotension
   24 Hour Events:
 ARTERIAL LINE - STOP [**2127-5-10**] 02:01 PM
 ARTERIAL LINE - START [**2127-5-10**] 02:23 PM
   [**Known lastname 2789**]- 63F with invasive bladder CA admitted for radical
   cystectomy with neobladder.  Was transiently hypotensive in the PACU,
   briefly requiring pressors.  Now hemo stable and extubated.
   Controlling pain and monitoring HCT
   -Has a mild respiratory acidosis.  ABGs did not improve with
   non-invasive ventilation, so we stopped it and weaned morphine PCA from
   1.5mg q6minutes to 1.0mg.
   -Transfused one unit of pRBCs for HCT 26.9
   -Changed A-line
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2127-5-10**] 09:00 AM
   Cefazolin - [**2127-5-10**] 10:11 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2127-5-10**] 03:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: [**4-29**] Moderate
   Flowsheet Data as of  [**2127-5-11**] 08:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.1
C (98.7
   HR: 98 (86 - 104) bpm
   BP: 124/60(84) {88/49(64) - 130/72(89)} mmHg
   RR: 19 (11 - 31) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  2,650 mL
                  PO:
                  TF:
   IVF:
                                                                  2,275 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,180 mL
                                                                    580 mL
   Urine:
                                                                  1,995 mL
                                                                    465 mL
   NG:
   Stool:
   Drains:
                                                                    185 mL
                                                                    115 mL
   Balance:
                                                                    470 mL
                                                                   -580 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 1,159 (1,159 - 1,159) mL
   PS : 15 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 20 cmH2O
   SpO2: 93%
   ABG: 7.33/55/132/27/1
   Ve: 6.4 L/min
   PaO2 / FiO2: 264
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   205 K/uL
   9.8 g/dL
   101 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.9 mEq/L
   14 mg/dL
   108 mEq/L
   141 mEq/L
   27.8 %
   17.0 K/uL
        [image002.jpg]
                             [**2127-5-9**]  11:28 PM
                             [**2127-5-10**]  12:05 AM
                             [**2127-5-10**]  02:05 AM
                             [**2127-5-10**]  03:49 AM
                             [**2127-5-10**]  04:14 AM
                             [**2127-5-10**]  09:52 AM
                             [**2127-5-10**]  01:03 PM
                             [**2127-5-10**]  02:42 PM
                             [**2127-5-11**]  04:01 AM
   WBC
   19.3
   19.4
   18.4
   17.0
   Hct
   31.1
   39
   28.6
   26.9
   27.8
   Plt
   200
   228
   218
   205
   Cr
   0.6
   0.6
   0.6
   0.6
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   23
   25
   24
   29
   30
   Glucose
   166
   180
   120
   101
   Other labs: PT / PTT / INR:12.9/31.6/1.1, CK / CKMB /
   Troponin-T:1061/8/<0.01, Differential-Neuts:91.4 %, Band:0.0 %,
   Lymph:4.4 %, Mono:4.0 %, Eos:0.2 %, Lactic Acid:0.9 mmol/L, Ca++:7.8
   mg/dL, Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   Imaging: none
   Microbiology: ngtd
   Assessment and Plan
   63 yo F w/ invasive bladder ca, s/p BCG/TURBT 1 day post op from
   radical cystectomy with ileal loop conduit and ant exeneration c/b
   post-op hypotension and hyperbarbic resp failure
   .
   # hypotension
likely under-resusc
   Responded to IVF
off pressors, making good u/o
   trend lactates, colloid, IVF with NS/LR
   f/u cx
s given inf risk
   .
   # leukocytosis
likely post-op stress
   f/u cx, continue prophy antibx coverage per urology w/ cefaz/flagyl X
   24 hrs
   .
   # anemia
blood loss in or + dilutional from fluid resus
   transfuse prbcs
   .
   # hypercarbia resp failure/atelectasis
improved with bipap, somnolent
   this am but easily arousable and appropriate, recheck abg on NC, may
   require intermittent bipap pending CO2, IC
   .
   # NG acidosis
likely from aggressive NS though possibly related to
   ileal divertion
   Trend, LR/NS
   .
   # post-op
f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 458**] recs, monitor u/o, flagyl/cef X 24 hrs, IC
   .
   # elevated cpk
likely related to surgery, no trop or mb elevation,
   follow, good u/o
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2127-5-9**] 11:00 PM
   Arterial Line - [**2127-5-10**] 02:23 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2127-05-11 11:05:00 Physician Attending Progress Note
Chief Complaint:
   HPI:  63 yo F w/ invasive bladder ca, s/p BCG/TURBT,  1 day post -op
   from radical cystectomy with ileal loop conduit and ant exeneration c/b
   post-op hypotension and hyperbarbic resp failure
   24 Hour Events:
 ARTERIAL LINE - STOP [**2127-5-10**] 02:01 PM
 ARTERIAL LINE - START [**2127-5-10**] 02:23 PM
   no events over night
   transfused 1 unit PRBCs
   weaned morphine PCA dose
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2127-5-10**] 09:00 AM
   Cefazolin - [**2127-5-10**] 10:11 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2127-5-10**] 03:55 PM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-5-11**] 11:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.4
C (99.4
   HR: 94 (86 - 104) bpm
   BP: 125/57(82) {88/49(64) - 136/71(95)} mmHg
   RR: 15 (10 - 31) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,650 mL
                                                                    100 mL
   PO:
             TF:
   IVF:
                                                                  2,275 mL
                                                                    100 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,180 mL
                                                                    845 mL
   Urine:
                                                                  1,995 mL
                                                                    730 mL
   NG:
   Stool:
   Drains:
                                                                    185 mL
                                                                    115 mL
   Balance:
                                                                    470 mL
                                                                   -745 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.33/55/132/27/1
   PaO2 / FiO2: 264
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: b/b)
   Abdominal: Soft, Bowel sounds present, Tender:
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Not assessed
   Labs / Radiology
   9.8 g/dL
   205 K/uL
   101 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.9 mEq/L
   14 mg/dL
   108 mEq/L
   141 mEq/L
   27.8 %
   17.0 K/uL
        [image002.jpg]
                             [**2127-5-9**]  11:28 PM
                             [**2127-5-10**]  12:05 AM
                             [**2127-5-10**]  02:05 AM
                             [**2127-5-10**]  03:49 AM
                             [**2127-5-10**]  04:14 AM
                             [**2127-5-10**]  09:52 AM
                             [**2127-5-10**]  01:03 PM
                             [**2127-5-10**]  02:42 PM
                             [**2127-5-11**]  04:01 AM
   WBC
   19.3
   19.4
   18.4
   17.0
   Hct
   31.1
   39
   28.6
   26.9
   27.8
   Plt
   200
   228
   218
   205
   Cr
   0.6
   0.6
   0.6
   0.6
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   23
   25
   24
   29
   30
   Glucose
   166
   180
   120
   101
   Other labs: PT / PTT / INR:12.9/31.6/1.1, CK / CKMB /
   Troponin-T:1061/8/<0.01, Differential-Neuts:91.4 %, Band:0.0 %,
   Lymph:4.4 %, Mono:4.0 %, Eos:0.2 %, Lactic Acid:0.9 mmol/L, Ca++:7.8
   mg/dL, Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   Imaging: no new film
   Microbiology: bl [**5-10**] ngtd
   Assessment and Plan
   63 yo F w/ invasive bladder ca, s/p BCG/TURBT 1 day post op from
   radical cystectomy with ileal loop conduit and ant exeneration c/b
   post-op hypotension and hyperbarbic resp failure
   # hypotension
likely under-resusc --responded to IVF, off pressors,
   making good u/o
   resolved
   f/u cxs
   # leukocytosis
likely post-op stress/reactive
   f/u cx, s/p cefaz/flagyl X 24 hrs
   # anemia
blood loss in or + dilutional from fluid resus
   Follow, active t and c
   # hypercarbia resp failure
improved with BIPAP
   probable OSA
outpt eval, monitor in setting of narcotics for pain
   control
   # atelectasis
IC, OOB
 chair
   # NG acidosis
likely from aggressive NS though possibly related to
   ileal divertion
now resolved
   # post-op
f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 458**] recs, bowel reg
   # pain control
   ICU Care
   Nutrition: NPO
   Comments:
   Glycemic Control:  not needed
   Lines:
   18 Gauge - [**2127-5-9**] 11:00 PM
   Arterial Line - [**2127-5-10**] 02:23 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :stable for transfer to floor pending urology recs
   Total time spent: 35 minutes

2127-05-12 07:33:00 Physician Resident Progress Note
Chief Complaint: Hypotension - Post-Op
   24 Hour Events:
 ARTERIAL LINE - STOP [**2127-5-11**] 02:00 PM
 CALLED OUT
   - Called out, awaiting bed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2127-5-10**] 09:00 AM
   Cefazolin - [**2127-5-10**] 10:11 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2127-5-11**] 07:57 PM
   Heparin Sodium (Prophylaxis) - [**2127-5-11**] 07:57 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-5-12**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.8
C (98.2
   HR: 83 (72 - 100) bpm
   BP: 116/69(79) {116/46(66) - 131/73(84)} mmHg
   RR: 17 (10 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    566 mL
                                                                  1,187 mL
   PO:
             TF:
   IVF:
                                                                    566 mL
                                                                  1,187 mL
   Blood products:
   Total out:
                                                                  2,120 mL
                                                                    637 mL
   Urine:
                                                                  1,705 mL
                                                                    522 mL
   NG:
   Stool:
   Drains:
                                                                    415 mL
                                                                    115 mL
   Balance:
                                                                 -1,554 mL
                                                                    550 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, No(t) Non-tender, No(t) Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   206 K/uL
   9.2 g/dL
   118 mg/dL
   0.5 mg/dL
   29 mEq/L
   3.2 mEq/L
   11 mg/dL
   105 mEq/L
   139 mEq/L
   25.8 %
   16.7 K/uL
        [image002.jpg]
                             [**2127-5-9**]  11:28 PM
                             [**2127-5-10**]  12:05 AM
                             [**2127-5-10**]  02:05 AM
                             [**2127-5-10**]  03:49 AM
                             [**2127-5-10**]  04:14 AM
                             [**2127-5-10**]  09:52 AM
                             [**2127-5-10**]  01:03 PM
                             [**2127-5-10**]  02:42 PM
                             [**2127-5-11**]  04:01 AM
                             [**2127-5-12**]  04:08 AM
   WBC
   19.3
   19.4
   18.4
   17.0
   16.7
   Hct
   31.1
   39
   28.6
   26.9
   27.8
   25.8
   Plt
   200
   228
   218
   205
   206
   Cr
   0.6
   0.6
   0.6
   0.6
   0.5
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   23
   25
   24
   29
   30
   Glucose
   166
   180
   120
   101
   118
   Other labs: PT / PTT / INR:12.9/31.6/1.1, CK / CKMB /
   Troponin-T:1061/8/<0.01, Differential-Neuts:91.4 %, Band:0.0 %,
   Lymph:4.4 %, Mono:4.0 %, Eos:0.2 %, Lactic Acid:0.9 mmol/L, Ca++:7.8
   mg/dL, Mg++:1.9 mg/dL, PO4:1.2 mg/dL
   Imaging: No New
   Microbiology: BCx: NGTD
   Assessment and Plan
   63 yo F w/ invasive bladder ca, s/p BCG/TURBT 1 day post op from
   radical cystectomy with ileal loop conduit and ant exeneration c/b
   post-op hypotension and hyperbarbic resp failure
   .
   # hypotension
likely under-resusc
   Responded to IVF
off pressors, making good u/o
   trend lactates, colloid, IVF with NS/LR
   f/u cx
s given inf risk
   .
   # leukocytosis
likely post-op stress, trending down.
   f/u cx, completed prophy antibx coverage per urology w/ cefaz/flagyl X
   24 hrs
   .
   #Respiratory: On 2L NC, wean to room air, pain control and IS.
   .
   # anemia
stable
   .
   # hypercarbia resp failure/atelectasis
improved
   .
   # Metabolic:  NG acidosis
resolved, check PM lytes.
   .
   # post-op
f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 458**] recs, monitor u/o, flagyl/cef X 24 hrs, IC
   .
   # elevated cpk
likely related to surgery, no trop or mb elevation,
   follow, good u/o
   .
   #FEN: NPO for now unti flatus, NG tube in place
   #Access: PIV
   #Dispo: Called out to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2127-5-9**] 11:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2127-05-12 11:16:00 Physician Attending Progress Note
Chief Complaint: post-op hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   63 yo F w/ invasive bladder ca, s/p BCG/TURBT 1 day post op from
   radical cystectomy with ileal loop conduit and ant exeneration c/b
   post-op hypotension and hyperbarbic resp failure
   24 Hour Events:
 ARTERIAL LINE - STOP [**2127-5-11**] 02:00 PM
 CALLED OUT and awaiting bed
   transitioned to PCA
   History obtained from Patient, ho
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2127-5-10**] 09:00 AM
   Cefazolin - [**2127-5-10**] 10:11 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2127-5-12**] 08:09 AM
   Heparin Sodium (Prophylaxis) - [**2127-5-12**] 08:48 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-5-12**] 11:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.7
C (98
   HR: 70 (70 - 100) bpm
   BP: 116/63(76) {116/46(66) - 131/73(84)} mmHg
   RR: 14 (13 - 20) insp/min
   SpO2: 98% 2L
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    566 mL
                                                                  1,671 mL
   PO:
             TF:
   IVF:
                                                                    566 mL
                                                                  1,671 mL
   Blood products:
   Total out:
                                                                  2,120 mL
                                                                    867 mL
   Urine:
                                                                  1,705 mL
                                                                    722 mL
   NG:
   Stool:
   Drains:
                                                                    415 mL
                                                                    145 mL
   Balance:
                                                                 -1,554 mL
                                                                    804 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : )
   Abdominal: Soft, Bowel sounds present, Distended, Tender:
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   9.2 g/dL
   206 K/uL
   118 mg/dL
   0.5 mg/dL
   29 mEq/L
   3.2 mEq/L
   11 mg/dL
   105 mEq/L
   139 mEq/L
   25.8 %
   16.7 K/uL
        [image002.jpg]
                             [**2127-5-9**]  11:28 PM
                             [**2127-5-10**]  12:05 AM
                             [**2127-5-10**]  02:05 AM
                             [**2127-5-10**]  03:49 AM
                             [**2127-5-10**]  04:14 AM
                             [**2127-5-10**]  09:52 AM
                             [**2127-5-10**]  01:03 PM
                             [**2127-5-10**]  02:42 PM
                             [**2127-5-11**]  04:01 AM
                             [**2127-5-12**]  04:08 AM
   WBC
   19.3
   19.4
   18.4
   17.0
   16.7
   Hct
   31.1
   39
   28.6
   26.9
   27.8
   25.8
   Plt
   200
   228
   218
   205
   206
   Cr
   0.6
   0.6
   0.6
   0.6
   0.5
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   23
   25
   24
   29
   30
   Glucose
   166
   180
   120
   101
   118
   Other labs: PT / PTT / INR:12.9/31.6/1.1, CK / CKMB /
   Troponin-T:1061/8/<0.01, Differential-Neuts:91.4 %, Band:0.0 %,
   Lymph:4.4 %, Mono:4.0 %, Eos:0.2 %, Lactic Acid:0.9 mmol/L, Ca++:7.8
   mg/dL, Mg++:1.9 mg/dL, PO4:1.2 mg/dL
   Imaging: no new imaging
   Microbiology: no new data
   Assessment and Plan
   63 yo F w/ invasive bladder ca, s/p BCG/TURBT 1 day post op from
   radical cystectomy with ileal loop conduit and ant exeneration c/b
   post-op hypotension and hyperbarbic resp failure
   # hypotension
   responded to IVF, off pressors, making good u/o
   resolved
   f/u cxs ngtd
   resumed BB
   # leukocytosis
likely post-op stress/reactive
 trending down
   f/u cx
   s/p cefaz/flagyl X 24 hrs post-op
   af
   # anemia
blood loss in or + dilutional from fluid resus
   h/h remain stable, xfuse for < 25
   active t and c
   # hypercarbia resp failure
improved with BIPAP
   probable OSA
outpt eval, monitor in setting of narcotics for pain
   control
   # atelectasis
IC, OOB
 chair
   # post-op
f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 458**] recs, bowel rest
   # pain control
adequate control with PCA
   ICU Care
   Nutrition:
   NGT, NPO
   Glycemic Control:
   Lines:
   18 Gauge - [**2127-5-9**] 11:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes